US08975254B2
(S)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-3-methyl-1,2,4-oxadiazole-5-carboxamide
(S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile (219 mg, 0.84 mmol) was coupled with 3-methyl-1,2,4-oxadiazole-5-carboxylic acid using the method of Example 34(d). Crude product was suspended in MeCN and MeOH. Suspension was filtered to give 16 mg (5%) the title compound as a colourless solid. Filtrate was purified by CombiFlash (column: C-18 silica, eluent: 0-100% MeCN in water). Fractions containing the title compound were combined and suspended in MeCN. Suspension was filtered to give 9 mg (3%) the title compound. 1H-NMR (400 MHz; d6-DMSO): δ 1.19 (d, 3H), 2.44 (s, 3H), 4.34 (d, 2H), 4.39-4.53 (m, 1H), 6.95 (d, 1H), 7.84 (d, 1H), 7.92 (dd, 1H), 7.98 (d, 1H), 8.06 (d, 1H), 9.42 (d, 1H).

reactant | (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile | 0.84 mmol, 219 mg | N[C@H](CN1N=C(C=C1)C1=CC(=C(C#N)C=C1)Cl)C | C13H13ClN4
reactant | 3-methyl-1,2,4-oxadiazole-5-carboxylic acid | CC1=NOC(=N1)C(=O)O | C4H4N2O3
solvent | MeCN | CC#N | C2H3N
solvent | MeOH | CO | CH4O
product | (S)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-3-methyl-1,2,4-oxadiazole-5-carboxamide | 16 mg, 5% | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)C[C@H](C)NC(=O)C1=NC(=NO1)C | C17H15ClN6O2
